US07855215B2
Step 71.1: 5-(6-Azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide
To a solution of 4.70 g (10.8 mMol) 5-(6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (WO 03/099771; Ex. 163) in 50 ml DMF, 1.4 g (21.6 mMol) NaN3 are added at rt. Then the mixture is stirred for 3 h at 70° C., cooled to rt and pored into water and extracted tree times with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated, yielding the title compound: m.p.: 167-168° C.

reactant | 5-(6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 10.8 mMol, 4.70 g | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)Cl)(F)F | C20H14ClF3N4O2
reactant | NaN3 | 21.6 mMol, 1.4 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-(6-Azido-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)N=[N+]=[N-])(F)F | C20H14F3N7O2
